US06358675B1
Preparation of 2,6,6-Trimethyl-5,5-bis(trimethylsilyl)-5,6-disilaheptan-2-ol.
A dried reaction flask equipped for magnetic stirring and fitted with a reflux condenser was flushed with nitrogen and charged with toluene (500 mL). Oxygen was purged from the system by passing a stream of nitrogen through the solvent, 2-methyl-3-buten-2-ol (43.1 g, 500 mmol), tris(trimethylsilyl)silane (25.0 g, 100 mmol), and 1,1′-azobis(cyclohexanecarbonitrile) (1.22 g, 5 mmol) were added to the flask, and the reaction mixture was heated for 20 hours at 110° C. with stirring. The resulting solution was concentrated under reduced pressure, and distillation under vacuum (bp 90-104° C. at 0.10 mm) afforded the title compound (25.1 g, 74%) as a colorless solid. The distilled product was characterized by the following NMR data: 1H NMR (CDCl3) δ 0.14 (s, 27 H), 0.70-0.80 (m, 2 H), 1.17 (s, 6 H), 1.30 (br s, 1 H), 1.45-1.55 (m, 2 H); 13C NMR (CDCl3) δ 1.06 (9 C), 1.24 (1 C), 28.35 (2 C), 42.99 (1 C), 71.64 (1 C); 29Si NMR (CDCl3) δ −80.90 (1 Si), −12.83 (3 Si).

reactant | 2-methyl-3-buten-2-ol | 500 mmol, 43.1 g | CC(C)(C=C)O | C5H10O
reactant | tris(trimethylsilyl)silane | 100 mmol, 25.0 g | C[Si](C)(C)[SiH]([Si](C)(C)C)[Si](C)(C)C | C9H28Si4
catalyst | 1,1′-azobis(cyclohexanecarbonitrile) | 5 mmol, 1.22 g | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 2,6,6-Trimethyl-5,5-bis(trimethylsilyl)-5,6-disilaheptan-2-ol | 25.1 g, 74% | CC(C)(CC[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C)O | C14H38OSi4
